US06103708
4-[4-(2-Butyl-benzofuran-3-carbonyl)-phenoxysulfonyl]-2-hydroxy-benzoic Acid
The title compound was prepared according to the procedure in Example 4 using commercial 2-n-butyl-3-(4-hydroxybenzoyl)benzofuran (1.00 g, 3.40 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (1.61 g, 6.79 mmol). Purification on 2% H3PO4 /MeOH treated silica gel, eluting with EtOAc/hexane gave 0.185 g (11%) of the title compound as an off white solid, mp 143-145° C. 1H NMR (DMSO-d6) δ 0.76 (t, 3 H), 1.12-1.22 (m, 2 H), 1.60 (quintet, 2 H), 2.69 (t, 2 H), 7.21-7.38 (m, 7 H), 7.61 (d, 1 H), 7.76 (d, 2 H), 7.98 (d, 1 H). IR (KBr) 2950, 1690, 1600, 1380 and 1150 cm-1. mass spectrum (+ESI) m/z 495 (M+H). Anal. Calcd. for C26H22O8S.0.2H2O: C, 62.24; H, 4.58; N, 0.00. Found: C, 62.38; H, 4.59; N, 0.13.

reactant | 2-n-butyl-3-(4-hydroxybenzoyl)benzofuran | 3.40 mmol, 1.00 g | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=CC=C2 | C19H18O3
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 6.79 mmol, 1.61 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4-(2-Butyl-benzofuran-3-carbonyl)-phenoxysulfonyl]-2-hydroxy-benzoic Acid | 0.185 g, 11% | C(CCC)C=1OC2=C(C1C(=O)C1=CC=C(OS(=O)(=O)C3=CC(=C(C(=O)O)C=C3)O)C=C1)C=CC=C2 | C26H22O8S
